US08871782B2
Cesium carbonate (1.7 g, 5.25 mmol, 3 eq) was added to a mixture of 2-bromo-1-morpholin-4-yl-ethanone (400 mg, 1.92 mmol, 1.1 eq), 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine (500 mg, 1.75 mmol, 1.0 eq), and anhydrous DMF. The reaction mixture was heated to 70° C. and maintained overnight. The reaction mixture was then cooled to ambient temperature, filtered, and concentrated under reduced pressure to yield a dark oil. The dark oil was dissolved in dichloromethane, filtered, purified by chromatography on a HORIZON HPFC system (eluting with a gradient of methanol/dichloromethane (20:80) in dichloromethane from 0:100 to 40:60), and crystallized from acetonitrile to afford 356 mg of 2-(methoxymethyl)-8-(2-morpholin-4-yl-2-oxoethoxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine as an off white powder, mp 201-204° C.

reactant | Cesium carbonate | 5.25 mmol, 1.7 g, 3 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromo-1-morpholin-4-yl-ethanone | 1.92 mmol, 400 mg, 1.1 eq | BrCC(=O)N1CCOCC1 | C6H10BrNO2
reactant | 8-hydroxy-2-methoxymethyl-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.75 mmol, 500 mg, 1.0 eq | OC1=CC=2C3=C(C(=NC2C=C1)N)N=C(N3CCC)COC | C15H18N4O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(methoxymethyl)-8-(2-morpholin-4-yl-2-oxoethoxy)-1-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 356 mg | COCC=1N(C2=C(C(=NC=3C=CC(=CC23)OCC(=O)N2CCOCC2)N)N1)CCC | C21H27N5O4
